US03939253
Next, 3.00 g (6.17 millimole) of the above isolated ester was dissolved in methanol (100 ml) and glacial acetic acid (5 ml). The solution was then shaken in a Parr apparatus for 16 hours over 10% Pd/C (0.4 g) under a hydrogen atmosphere (35 lbs). The solution was then filtered and concentrated in vacuo at room temperature. The residue obtained was dissolved in 10 ml of glacial acetic acid, saturated with hydrogen chloride and treated with 10 ml of acetyl chloride. The solution was stirred at room temperature overnight in a tightly sealed reaction flask and then diluted to 125 ml with ether to give a light brown gum. The ether was decanted and the residue was suspended in anhydrous ether (100 ml). The suspended solid was dispersed with a spatula and allowed to stir until it became homogeneous. It was then filtered and the residue was dried in a vacuum oven at 60°C to yield 0.58 g (m.p. 80°-100°C, 24% yield) of glycyl- 3,4-diacetyloxy-L-phenylalanine-methyl ester hydrochloride from carbobenzyloxyglycyl-3,4-diacetyloxy-L-phenylalanine-methyl ester. The nmr spectrum was consistent with the proposed structure of the compound obtained and upon analysis of the compound, the following data was obtained. Analysis Calculated for: C16H21O7N2Cl: C, 49.42; H, 5.44; and N, 7.21. Found: C, 49.65; H, 5.50; and N, 7.47.

reactant | acetyl chloride | 10 ml | C(C)(=O)Cl | C2H3ClO
reactant | carbobenzyloxyglycyl-3,4-diacetyloxy-L-phenylalanine-methyl ester | COC([C@@H](NC(CNC(=O)OCC1=CC=CC=C1)=O)CC1=CC(=C(C=C1)OC(C)=O)OC(C)=O)=O | C24H26N2O9
solvent | methanol | 100 ml | CO | CH4O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | hydrogen chloride | Cl | ClH
solvent | ether | CCOCC | C4H10O
catalyst | Pd/C | 0.4 g | [Pd] | Pd
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | glycyl- 3,4-diacetyloxy-L-phenylalanine-methyl ester hydrochloride | 0.58 g, 24% yield | Cl.COC([C@@H](NC(CN)=O)CC1=CC(=C(C=C1)OC(C)=O)OC(C)=O)=O | InChI=1S/C16H20N2O7.ClH/c1-9(19)24-13-5-4-11(7-14(13)25-10(2)20)6-12(16(22)23-3)18-15(21)8-17;/h4-5,7,12H,6,8,17H2,1-3H3,(H,18,21);1H/t12-;/m0./s1
